US05153214
To a solution of 0.1 g (0.37 mmol) of methyl 7-cyano-5-[2-(3-pyridyl)ethyl]-heptanoate in 20 ml of methanol saturated with ammonia is added 0.15 ml Raney Nickel and the mixture is hydrogenated at 3 atmospheres (=3.04 bar) pressure of hydrogen and room temperature for 4 h. The catalyst is filtered off and washed with methanol (4×20 ml). The filtrate is evaporated to give methyl 8-amino-5-[2-(3-pyridyl)ethyl]-octanoate.

reactant | methyl 7-cyano-5-[2-(3-pyridyl)ethyl]-heptanoate | 0.37 mmol, 0.1 g | C(#N)CCC(CCCC(=O)OC)CCC=1C=NC=CC1 | C16H22N2O2
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | Raney Nickel | 0.15 ml | [Ni] | Ni
product | methyl 8-amino-5-[2-(3-pyridyl)ethyl]-octanoate | NCCCC(CCCC(=O)OC)CCC=1C=NC=CC1 | C16H26N2O2
